US06211199B1
79.6 Synthesis of 1-((R)-α-methylbenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine
Prepare by the method of Example 1.6 using 1-((R)-α-methylbenzyl)-3-(4-fluorophenylmethyl)-3-(2-methanesulfonyloxyethyl)-2-oxopyrrolidine (Rf=0.75 silica gel, ethyl acetate) and (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine to give a diastereomer of the title compound.

reactant | 1-((R)-α-methylbenzyl)-3-(4-fluorophenylmethyl)-3-(2-methanesulfonyloxyethyl)-2-oxopyrrolidine | C[C@H](C1=CC=CC=C1)N1C(C(CC1)(CCOS(=O)(=O)C)CC1=CC=C(C=C1)F)=O | C22H26FNO4S
reactant | (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C16H24N4O
product | 1-((R)-α-methylbenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine | C[C@H](C1=CC=CC=C1)N1C(C(CC1)(CC1=CC=C(C=C1)F)CCN1CCC(CC1)NC1=NC2=C(N1CCOCC)C=CC=C2)=O | C37H46FN5O2
